US07375115B2
N-[1-[3-[2-(3-Cyclohexylthioureido)phenyl]propyl]piperidin-4-yl]-N-(p-tolyl)-2-furancarboxamide
To a solution of N-[1-[3-(2-aminophenyl)propyl]piperidin-4-yl]-N-(p-tolyl)-2-furancarboxamide (0.42 g) dissolved in 1,2-dichloroethane (5 mL) was added cyclohexyl isothiocyanate (0.42 g) at room temperature. The solution was then heated under reflux for 8 hours. The solution was purified by chromatography [silica gel, dichloromethane-methanol-aqueous ammonia (97:3:0.2-95:5:0.3)] to give the title compound (0.2458 g).

reactant | N-[1-[3-(2-aminophenyl)propyl]piperidin-4-yl]-N-(p-tolyl)-2-furancarboxamide | 0.42 g | NC1=C(C=CC=C1)CCCN1CCC(CC1)N(C(=O)C=1OC=CC1)C1=CC=C(C=C1)C | C26H31N3O2
reactant | cyclohexyl isothiocyanate | 0.42 g | C1(CCCCC1)N=C=S | C7H11NS
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
product | N-[1-[3-[2-(3-Cyclohexylthioureido)phenyl]propyl]piperidin-4-yl]-N-(p-tolyl)-2-furancarboxamide | 0.2458 g | C1(CCCCC1)NC(NC1=C(C=CC=C1)CCCN1CCC(CC1)N(C(=O)C=1OC=CC1)C1=CC=C(C=C1)C)=S | C33H42N4O2S
